US07790756B2
Using a procedure analogous to Example B3, 6-(2-(diphenylmethylene)hydrazinyl)quinoline (4.0 g, 12.3 mmol) and 4-methyl-3-oxo-pentanenitrile (1.5 g, 13.5 mmol) were combined to provide to 3-isopropyl-1-(quinolin-6-yl)-1H-pyrazol-5-amine. (1.1 g, 36% yield). 1H NMR (400 MHz, CDCl3) δ 8.93 (dd, J=4.4, 1.6 Hz, 1H), 8.21-8.18 (m, 2H), 8.05-8.02 (m, 2H), 7.44 (dd, J=8.4, 4.4 Hz, 1H), 5.56 (s, 1H), 3.85 (br s, 2H), 2.97 (m, 1H), 1.31 (d, J=6.8 Hz, 6H); MS (ESI) m/z: 253.2 (M+H+).

reactant | 6-(2-(diphenylmethylene)hydrazinyl)quinoline | 12.3 mmol, 4.0 g | C1(=CC=CC=C1)C(=NNC=1C=C2C=CC=NC2=CC1)C1=CC=CC=C1 | C22H17N3
reactant | 4-methyl-3-oxo-pentanenitrile | 13.5 mmol, 1.5 g | CC(C(CC#N)=O)C | C6H9NO
product | 3-isopropyl-1-(quinolin-6-yl)-1H-pyrazol-5-amine | 36% yield | C(C)(C)C1=NN(C(=C1)N)C=1C=C2C=CC=NC2=CC1 | C15H16N4
